US06849622B2
0.85 ml of triethylamine and 0.35 ml of methyl chloroformate were added to 8 ml of a methylene chloride solution containing 0.72 g of 5-amino-2-tert-butoxycarbonylisoindoline, and the mixture was stirred at room temperature for 5 hours. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. After the extract was dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure. The residue was purified by silica gel chromatography (solvent: chloroform-ethyl acetate=2:1) to obtain an oil. This oil was dissolved in 5 ml of dioxane, then, 8 ml of 4N hydrochloric acid-dioxane was added thereto, and the mixture was stirred at room temperature. The precipitates precipitated by addition of 20 ml of ether were collected by filtration and washed with ether to obtain 5-(methoxycarbonylamino)isoindoline.hydrochloride.

reactant | triethylamine | 0.85 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.35 ml | ClC(=O)OC | C2H3ClO2
reactant | 5-amino-2-tert-butoxycarbonylisoindoline | 0.72 g | NC=1C=C2CN(CC2=CC1)C(=O)OC(C)(C)C | C13H18N2O2
reactant | hydrochloric acid dioxane | 4N, 8 ml | Cl.O1CCOCC1
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | Water | O | H2O
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 5-(methoxycarbonylamino)isoindoline.hydrochloride | Cl.COC(=O)NC=1C=C2CNCC2=CC1 | InChI=1S/C10H12N2O2.ClH/c1-14-10(13)12-9-3-2-7-5-11-6-8(7)4-9;/h2-4,11H,5-6H2,1H3,(H,12,13);1H
